US07989438B2
Step 6: methyl (7S)-7-[(1-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
To a solution (0.02 M) of methyl (7S)-14-cyclohexyl-7-(pyrrolidin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate in MeOH/THF (2/1), AcOH (cat.) was added followed by tert-butyl methyl(2-oxoethyl)carbamate (2 eq, prepared as described in Tetrahedron 2002, 58, 1719-1737). The reaction was stirred at RT for 30 min at which point NaCNBH3 (2 eq) was added and the mixture was stirred at 40° C. for 1 h. Additional tert-butyl methyl(2-oxoethyl)carbamate (1 eq) and NaCNBH3 (5 eq) were added and the reaction was stirred for further 30 min at 40° C. The reaction was quenched by adding sat. aq. NaHCO3. The aqueous phase was extracted with EtOAc and the combined organics washed with brine before being dried (Na2SO4), filtered and concentrated in vacuo. The product was used in the subsequent step without further purification. (ES+) m/z 646 (M+H)+

reactant | methyl (7S)-14-cyclohexyl-7-(pyrrolidin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 0.02 M | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@@H](COC3=C(C21)C=CC=C3)OCC3NCCC3)C(=O)OC | C30H36N2O4
reactant | tert-butyl methyl(2-oxoethyl)carbamate | 2 eq | CN(C(OC(C)(C)C)=O)CC=O | C8H15NO3
reactant | NaCNBH3 | 2 eq | [BH3-]C#N.[Na+]
reactant | tert-butyl methyl(2-oxoethyl)carbamate | 1 eq | CN(C(OC(C)(C)C)=O)CC=O | C8H15NO3
reactant | NaCNBH3 | 5 eq | [BH3-]C#N.[Na+]
solvent | MeOH THF | CO.C1CCOC1
solvent | AcOH | CC(=O)O | C2H4O2
product | methyl (7S)-7-[(1-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C(C)(C)(C)OC(=O)N(CCN1C(CCC1)CO[C@@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)C | C38H51N3O6
